US04371720
1-Benzyloxy-3-iodopropane
To a solution of 83.3 g. (0.318 mole) triphenylphosphine in 200 ml. benzene was added, in four portions, 80 g. (0.318 mole) of iodine. The resultant mixture was stirred 3 hours and then 50 ml. (0.618 mole) of pyridine was added followed by the slow addition of 32 g. (0.192 mole) of 3-benzyloxypropanol in 250 ml. of benzene. The reaction was stirred 15 hours longer and then diluted with 40 ml. of methanol. The mixture was filtered through diatomaceous earth and the filtrate evaporated to an oil. Distillation of the crude oil yielded 28 g. (53%) of the title compound as an oil.

reactant | triphenylphosphine | 0.318 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.318 mole | II | I2
reactant | pyridine | 0.618 mole | N1=CC=CC=C1 | C5H5N
reactant | 3-benzyloxypropanol | 0.192 mole | C(C1=CC=CC=C1)OCCCO | C10H14O2
solvent | methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Benzyloxy-3-iodopropane | 53% | C(C1=CC=CC=C1)OCCCI | C10H13IO
